US05959107
To a DMF solution 15 ml of 5-fluoro-6-nitrobenzoimidazolinone 500 mg (2.5 mmol) and 5-isoquinolinethiol 450 mg (2.8 mmol), potassium carbonate 550 mg (4.0 mmol) was added, and the mixture was heated with stirring for 2 hours at 100° C. After adding water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated water solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was crystallized from methanol, and 5-(5-isoquinolylsulfanyl)-6-nitro-2,3-dihydro-1H-benzo[d]imidazol-2-one 346 mg (40.3%) was obtained.

reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | 5-fluoro-6-nitrobenzoimidazolinone | 2.5 mmol, 500 mg | FC1=CC2=C(NC(N2)=O)C=C1[N+](=O)[O-] | C7H4FN3O3
reactant | 5-isoquinolinethiol | 2.8 mmol, 450 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | potassium carbonate | 4.0 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-(5-isoquinolylsulfanyl)-6-nitro-2,3-dihydro-1H-benzo[d]imidazol-2-one | 346 mg, 40.3% | C1=NC=CC2=C(C=CC=C12)SC1=CC2=C(NC(N2)=O)C=C1[N+](=O)[O-] | C16H10N4O3S
